US04105790
A solution of ethyl 2-[4-(aminoacetyl)phenoxy]-propionate hydrochloride (2.0g.) in a mixture of methanol (150ml.) and a saturated solution of hydrogen chloride in ether (1ml.) was stirred and heated under reflux for 48 hours. The reaction mixture was then evaporated in vacuo and the residue was triturated with ether (50ml.) (dried over sodium wire) to give methyl 2-[4-(aminoacetyl)phenoxy]propionate hydrochloride which was isolated as a hygroscopic solid (1.3g.) having a satisfactory analysis; found: C, 50.0%; H, 5.9%, N, 4.9%; required (+ 3/4 mole H2O): C, 50.2%; H, 6.1%; N, 4.9%.

reactant | ethyl 2-[4-(aminoacetyl)phenoxy]-propionate hydrochloride | 2.0g | Cl.NCC(=O)C1=CC=C(OC(C(=O)OCC)C)C=C1
reactant | hydrogen chloride | Cl | ClH
solvent | methanol | 150ml | CO | CH4O
solvent | ether | 1ml | CCOCC | C4H10O
product | methyl 2-[4-(aminoacetyl)phenoxy]propionate hydrochloride | Cl.NCC(=O)C1=CC=C(OC(C(=O)OC)C)C=C1 | InChI=1S/C12H15NO4.ClH/c1-8(12(15)16-2)17-10-5-3-9(4-6-10)11(14)7-13;/h3-6,8H,7,13H2,1-2H3;1H
